US04973697
In the same manner as in Example 1, 2,6-dichloropyridine and potassium sulfite were reacted to obtain 540 mg (15.8%) of potassium 2-chloropyridine-6-sulfonate. Purification was conducted by recrystallization from ethanol.

reactant | 2,6-dichloropyridine | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | potassium sulfite | S(=O)([O-])[O-].[K+].[K+]
product | potassium 2-chloropyridine-6-sulfonate | 540 mg, 15.8% | ClC1=NC(=CC=C1)S(=O)(=O)[O-].[K+] | InChI=1S/C5H4ClNO3S.K/c6-4-2-1-3-5(7-4)11(8,9)10;/h1-3H,(H,8,9,10);/q;+1/p-1
